US08017637B2
3 g (11.8 mmol) of 5-methoxy-4-nitro-1,3-benzothiazole-2-carboxylic acid is suspended in 200 ml of dichloromethane and heated at 60° C. for 2 hours. The dichloromethane is evaporated off under reduced pressure. 5-methoxy-4-nitro-1,3-benzothiazole is obtained in the form of a beige powder. (m=2 g; yield=80%).

reactant | 5-methoxy-4-nitro-1,3-benzothiazole-2-carboxylic acid | 11.8 mmol, 3 g | COC=1C=CC2=C(N=C(S2)C(=O)O)C1[N+](=O)[O-] | C9H6N2O5S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 5-methoxy-4-nitro-1,3-benzothiazole | yield=80% | COC=1C=CC2=C(N=CS2)C1[N+](=O)[O-] | C8H6N2O3S
